US04096147
A mixture of 16.7 g (0.1 mole) of 3,4-dihydroisoquinoline hydrochloride and 27.0 g (0.02 mole) of 1-cyclopenten-1-yl methyl ketone in 22 ml of ethanol is refluxed overnight then evaporated to dryness. The remaining solid is dissolved in water and washed with ether. The aqueous layer is made basic with concentrated ammonium hydroxide solution with stirring. Upon the formation of an oil, ice is added to the mixture after which a solid is formed. The solid material is washed with water, dried overnight in a vacuum oven, and recrystallized from hexane to give 1,2,3,3a,5,6,10b,11,12,12 a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-one, M.P. 101°-102.5° C.

reactant | 3,4-dihydroisoquinoline hydrochloride | 0.1 mole, 16.7 g | Cl.C1=NCCC2=CC=CC=C12
reactant | 1-cyclopenten-1-yl methyl ketone | 0.02 mole, 27.0 g | CC(=O)C1=CCCC1 | C7H10O
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 1,2,3,3a,5,6,10b,11,12,12 a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-one | C1CCC2N3CCC4=C(C3CC(C21)=O)C=CC=C4 | C16H19NO
